US08183241B2
In a 50 ml reaction vessel under argon, a solution of crude 4-iodo-3,5-dimethyl-1H-pyrazole x52 (1.15 g, 5.2 mmol) in 25 ml of dry CH2Cl2 is added to 4-methylbenzenesulfonyl chloride (1.18 g, 6.2 mmol). Pyridine (0.42 ml, 5.2 mmol) is added and the mixture is stirred for 16 h at room temperature. The organic phase is washed with water, dried over MgSO4, filtered and concentrated. The residue is purified by column chromatography on silicagel (CH2Cl2/hexane: 70/30 (v/v)) to afford 4-iodo-3,5-dimethyl-1-[(4-methylphenyl)sulfonyl]-1H-pyrazole x53 (1.44 g).

reactant | 4-iodo-3,5-dimethyl-1H-pyrazole | IC=1C(=NNC1C)C | C5H7IN2
reactant | 4-methylbenzenesulfonyl chloride | 6.2 mmol, 1.18 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | Pyridine | 5.2 mmol, 0.42 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-iodo-3,5-dimethyl-1-[(4-methylphenyl)sulfonyl]-1H-pyrazole | Yield: 74% | IC=1C(=NN(C1C)S(=O)(=O)C1=CC=C(C=C1)C)C | C12H13IN2O2S
